### PR TITLE
fix: make option `linter.unusedSimpArgs` respect `linter.all`

### LINKED ISSUE #12559: Option `linter.unusedSimpArgs` does not respect `linter.all`
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The option `linter.unusedSimpArgs` does not respect the option `linter.all`.

### Context

This was discussed in the Lean Zulip as a likely bug: https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/Disabling.20all.20linters/near/574442224

### Steps to Reproduce

```lean4
-- Warnings for `linter.unusedVariables` and `linter.unusedSimpArgs`
example (n : Nat) : 1 = 1 := by simp [Or.inl]

-- Warning for `linter.unusedSimpArgs`
set_option linter.all false in
example (n : Nat) : 1 = 1 := by simp [Or.inl]

-- No warnings
set_option linter.all false in
set_option linter.unusedSimpArgs false in
example (n : Nat) : 1 = 1 := by simp [Or.inl]
```

**Expected behavior:** There should be no warning when (only) `linter.all` is set to `false`.

**Actual behavior:** There is a warning when `linter.all` is set to `false`.

### Versions

Lean 4.28.0, commit 13c88f960f40b7c163b99e742010bbbbdbe8bba7
Target: x86_64-unknown-linux-gnu

### Additional Information

[Additional information, configuration or data that might be necessary to reproduce the issue]

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by fiforeach**
This PR changes the way the linting for `linter.unusedSimpArgs` gets the value from the environment. This is achieved by using the appropriate helper functions defined in `Lean.Linter.Basic`.

The following now compiles without warning

```lean4
set_option linter.all false in
example : True := by simp [False]
```

Fixes #12559

### CODE REVIEW

File: src/Lean/Linter/UnusedSimpArgs.lean [hunk 1]
```diff
@@ -34,15 +34,15 @@ private def warnUnused (stx : Syntax) (i : Nat) : CoreM Unit := do
   -- Add hint about `←`
   let isInv := argStx.getKind == ``Lean.Parser.Tactic.simpLemma && !argStx[1].isNone
   if isInv then
-    hint := hint ++ .note m!"Simp arguments with `←` have the additional effect of removing \
+    hint := hint ++ .note m!"XXXSimp arguments with `←` have the additional effect of removing \
```
Comment (grunweg) [inline src/Lean/Linter/UnusedSimpArgs.lean]: This seems unintentional, please revert. (Is there a test for this error message? If not, one should be added... but that's outside of your PR.)

File: src/Lean/Linter/UnusedSimpArgs.lean [hunk 2]
```diff
@@ -34,15 +34,15 @@ private def warnUnused (stx : Syntax) (i : Nat) : CoreM Unit := do
...
       the other direction from the simp set, even if the simp argument itself is unused. \
       If the hint above does not work, try replacing `←` with `-` to only get that effect \
       and silence this warning."
-  logLint Tactic.linter.unusedSimpArgs argStx (msg ++ hint)
+  logLintIf Tactic.linter.unusedSimpArgs argStx (msg ++ hint)
```
Comment (grunweg) [inline src/Lean/Linter/UnusedSimpArgs.lean]: Is this change really necessary? This function is only called by the linter below, and the linter will error if this option is not set.

File: tests/lean/run/issue12559.lean
Comment (grunweg) [inline tests/lean/run/issue12559.lean]: Can you add a short comment explaining what the test is supposed to test? (Such comments are extremely valuable when modifying this test in the future.)

**Comment by grunweg** [comment]
I found a few more linters with the same issue and fixed them in a separate PR.

File: src/Lean/Linter/UnusedSimpArgs.lean (hunk 1 above)
Comment (fiforeach) [reply src/Lean/Linter/UnusedSimpArgs.lean]: Thanks! This was indeed unintentional.

File: src/Lean/Linter/UnusedSimpArgs.lean (hunk 2 above)
Comment (fiforeach) [reply src/Lean/Linter/UnusedSimpArgs.lean]: Maybe not, but I think it is reasonable to use `logLintIf`. For instance, if somebody bases a new linter on this one, the current issue this PR deals with would not arise under any circumstance.

File: tests/lean/run/issue12559.lean
Comment (fiforeach) [reply tests/lean/run/issue12559.lean]: Good idea.

Comment (grunweg) [inline tests/lean/run/issue12559.lean]: I'd write something like "The `linter.all` option also controls the `linter.unusedSimpArgs` linter."

Comment (grunweg) [inline tests/lean/run/issue12559.lean]: Can you add a positive test first, i.e. have the same code with a `#guard_msgs` demonstrating that the `unusedSimpArgs` linter fires, and then the current test?

File: src/Lean/Linter/UnusedSimpArgs.lean (hunk 2 above)
Comment (grunweg) [reply src/Lean/Linter/UnusedSimpArgs.lean]: I don't think the logLintIf would influence this PR's fix. My understanding is that `getLinterValue` not only checks `linter.unusedSimpArgs` (but also for e.g. `linter.all`).

File: tests/lean/run/issue12559.lean
Comment (grunweg) [inline tests/lean/run/issue12559.lean]: I'd move this comment to the top of the file: having a comment about a test's purpose in always the same location is really valuable at scale.

Comment (grunweg) [inline tests/lean/run/issue12559.lean]: Can you also add a version with just `linter.unusedSimpArgs`?

Comment (fiforeach) [reply tests/lean/run/issue12559.lean]: I don't think this is in the scope of this PR.

Comment (grunweg) [reply tests/lean/run/issue12559.lean]: I'd argue otherwise: you want the test to also verify the `unusedSimpArgs` linter errors in your example. (Otherwise, the test may silently fail to test what it is supposed to test.)

Comment (fiforeach) [reply tests/lean/run/issue12559.lean]: I see, I added the test.

However, the test is failing and I don't quite understand why. I read that the tests running in `lean/run` have `linter.all` set to `false` to avoid noise. However, it seems that using `set_option <...> in` does not activate the linter? I am utterly confused.

```text
    Start 2138: tests/lean/run/issue12559.lean
1/1 Test #2138: tests/lean/run/issue12559.lean ...***Failed    0.19 sec
Unexpected return code 1 executing ''; expected 0. Output:
issue12559.lean:12:0: error: ❌ Docstring on `#guard_msgs` does not match generated message:

- warning: This simp argument is unused:
-   False
 
- Hint: Omit it from the simp argument list.
-   simp ̵[̵F̵a̵l̵s̵e̵]̵
-
- Note: This linter can be disabled with `set_option linter.unusedSimpArgs false`
issue12559.lean:25:0: error: ❌ Docstring on `#guard_msgs` does not match generated message:

- warning: This simp argument is unused:
-   False
 
- Hint: Omit it from the simp argument list.
-   simp ̵[̵F̵a̵l̵s̵e̵]̵
-
- Note: This linter can be disabled with `set_option linter.unusedSimpArgs false`


0% tests passed, 1 tests failed out of 1

Total Test time (real) =   0.29 sec

The following tests FAILED:
        2138 - tests/lean/run/issue12559.lean (Failed)
Errors while running CTest
```

Do you have any idea why that might be?

Comment (fiforeach) [reply tests/lean/run/issue12559.lean]: Nevermind, I think I have fixed it by explicitly enabling the linters in sections. The sections are needed here because I want to test `linter.all` and `linter.unusedSimpArgs` individually.

**Comment by fiforeach** [comment]
@nomeata #12590 introduced (migrated?) some tests that explicitly checked for the linter being on. I now removed those warnings.

Do you know if those tests (in `tests/elab`) are run with the linter disabled? The readme does not comment on this.

**Comment by fiforeach** [comment]
@nomeata I rebased onto `master` and squashed the commits.

**Comment by nomeata** [comment]
Thanks! Squashing isn't necessary, we squash on merge and take PR description for the commit
